US05786379
(a) Preparation of 5-(1-adamantyl)-2,4-dihydroxybenzaldehyde
40 g (0.29 mol) of 2,4-dihydroxybenzaldehyde, 600 ml of dichloromethane and 46.4 g (0.34 mol) of 1-adamantanol were introduced into a round-bottomed flask and 24 ml of concentrated sulfuric acid were added. The reaction medium was stirred at room temperature for twelve hours and was then poured into water. The organic phase was separated out after settling had taken place, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a column of silica, eluted with dichloromethane. 50.8 g (64%) of the expected aldehyde, having a melting point of 259°-61° C., were recovered.

reactant | 2,4-dihydroxybenzaldehyde | 0.29 mol, 40 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | dichloromethane | 600 ml | ClCCl | CH2Cl2
reactant | 1-adamantanol | 0.34 mol, 46.4 g | C12(CC3CC(CC(C1)C3)C2)O | C10H16O
reactant | sulfuric acid | 24 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 5-(1-adamantyl)-2,4-dihydroxybenzaldehyde | C12(CC3CC(CC(C1)C3)C2)C=2C(=CC(=C(C=O)C2)O)O | C17H20O3
